US06281219B1
Ethyl-(3-trifluoromethylphenyl)acetoacetate (15.3 g, 0.056 mol) is added to a solution of ammonium acetate (21.6 g, 0.28 mol) in ethanol (100 ml) and the mixture is refluxed for 3 hours. The solution is concentrated under reduced pressure and then suspended in ethyl acetate. The suspension is washed with water and saturated brine and the organic layer concentrated. The material is then dissolved in dimethylsulfoxide (125 ml) and formamide (20 ml) and potassium tert-butoxide (1.28 g, 0.011 mol) are added. The solution is heated for 18 hours at 100° C. Upon cooling the solution is poured into ice (1000 ml) and glacial acetic acid (20 ml). The resulting solid is collected and air dried. The material is then triturated with diethyl ether and is air dried to give 6-(3-trifluoromethylbenzyl)pyrimidin-4-one (7.20 g).

reactant | Ethyl-(3-trifluoromethylphenyl)acetoacetate | 0.056 mol, 15.3 g | C(C)OC(CC(=O)CC1=CC(=CC=C1)C(F)(F)F)=O | C13H13F3O3
reactant | ammonium acetate | 0.28 mol, 21.6 g | C(C)(=O)[O-].[NH4+]
reactant | formamide | 20 ml | C(=O)N | CH3NO
reactant | potassium tert-butoxide | 0.011 mol, 1.28 g | CC(C)([O-])C.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-(3-trifluoromethylbenzyl)pyrimidin-4-one | 7.20 g | FC(C=1C=C(CC2=CC(NC=N2)=O)C=CC1)(F)F | C12H9F3N2O
